US05998433
b) Synthesis of N,N-diethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Diethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 1.047 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This was concentrated to yield the desired product.

reactant | N,N-Diethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 1.047 g | C(C)N(CC)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)=O)O1 | C26H27ClN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-diethyl-[6-[4-(4-chlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.C(C)N(CC)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)Cl)=O)=O)O1 | InChI=1S/C26H27ClN2O3.ClH/c1-3-28(4-2)16-23-15-21-13-14-29(17-24(21)32-23)26(31)20-7-5-18(6-8-20)25(30)19-9-11-22(27)12-10-19;/h5-12,15H,3-4,13-14,16-17H2,1-2H3;1H
